Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:8]/[O:9][H:10].[H:7],3.0488895192000003
[C:1]=[C:2]([O:3][C:4]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:5]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.1748687637
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-7.97487263
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5][H:6].[H:1][C:2][C:3]([H:4])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],8.64071206934
[H:1][O:2][C:3]#[C:4][C:5]([O:7][H:8])=[C:9]([H:10])[H:11].[H:6]>>[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-1.27939660655
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:8](/[O:7][C:6])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]1[C:6]2[O:7][C@@:8]12[H:9],-1.52606804555
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.28392134025
[H:1][C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.98167960047
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]#[C:7],3.6221653584699993
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-5.1217840497300005
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],4.027401418919999
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],4.2493387268300005
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:9]([H:10])[H:11].[H:8],2.92437014368
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-6.1583620980800005
[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[O:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-1.5021124865900002
[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6],4.884937304669999
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2],0.911333843541
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2],5.980058394509999
[H:1][O:2][C:3][C:4]#[C:5].[O:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9],-0.572544679289
[C:3]([H:4])([H:5])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2][C:7]([H:6])([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-2.09460646568
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.69614465336
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4],2.22037287835
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:6],1.98545927495
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],3.83692928333
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.58368901782
[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9],6.883950669239999
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5]#[C:6][H:7],4.21332189453
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],1.72694221601
